US04353908
Preparation of 5-Chloro-4-Ethoxycarbonyloxy-6-Methyl-2-Trichloromethylpyrimidine
To a solution of 5.8 g (0.02 mole) 5-chloro-4-hydroxy-6-methyl-2-trichloromethylpyrimidine, 2.0 g (0.02 mole) triethylamine, and 100 ml ether was added 2.2 g (0.02 mole) ethyl chloroformate. An immediate reaction ensued and a precipitate formed. After refluxing 2 hours longer the mixture was filtered, and the filtrate was washed with aqueous potassium carbonate and then with water. Rotary evaporation yielded 5.4 g residue which was recrystallized from ligroin to give 4.6 g (69% yield) of pure product (mp 43.5°-44.5° C.). The structure was confirmed via infrared and elemental analysis.

reactant | 5-chloro-4-hydroxy-6-methyl-2-trichloromethylpyrimidine | 0.02 mole, 5.8 g | ClC=1C(=NC(=NC1C)C(Cl)(Cl)Cl)O | C6H4Cl4N2O
reactant | triethylamine | 0.02 mole, 2.0 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.02 mole, 2.2 g | ClC(=O)OCC | C3H5ClO2
solvent | ether | 100 ml | CCOCC | C4H10O
product | 5-Chloro-4-Ethoxycarbonyloxy-6-Methyl-2-Trichloromethylpyrimidine | 5.4 g | ClC=1C(=NC(=NC1C)C(Cl)(Cl)Cl)OC(=O)OCC | C9H8Cl4N2O3
